US04686292
Methyl 5-amino-2-ethoxy-4-nitrobenzoate
A suspension of 1 5 g of ethyl 5-acetylamino-2-ethoxy-4-nitrobenzoate in 50 ml of 5 % (v/v) sulfuric acid methanolic solution was refluxed for 4 hours After cooling, the reaction solution was poured into an ice water, the resulting crystals were collected by filtration and recrystallized from methanol to give the title compound, m.p. 156°-157° C., yield of 1.01 g.

reactant | ethyl 5-acetylamino-2-ethoxy-4-nitrobenzoate | C(C)(=O)NC=1C(=CC(=C(C(=O)OCC)C1)OCC)[N+](=O)[O-] | C13H16N2O6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | Methyl 5-amino-2-ethoxy-4-nitrobenzoate | NC=1C(=CC(=C(C(=O)OC)C1)OCC)[N+](=O)[O-] | C10H12N2O5
